US05648521
N,N'-Terephthaloylbislaurolactam
Terephthaloyl chloride (203 g, i mol) is added in the course of 30 minutes to a solution of ω-laurolactam (403 g, 2 mol) in 1600 ml of cyclohexane and 475 ml of pyridine at room temperature. The mixture is then refluxed for 3 h. After cooling, the flask contents are poured into 3 1 of ice water and the resulting light yellow precipitate is filtered off by suction and dried. Yield 498 g (95%).

reactant | Terephthaloyl chloride | 203 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | ω-laurolactam | 2 mol, 403 g | C1CCCCCC(=O)NCCCCC1 | C12H23NO
solvent | cyclohexane | 1600 ml | C1CCCCC1 | C6H12
solvent | pyridine | 475 ml | N1=CC=CC=C1 | C5H5N
product | N,N'-Terephthaloylbislaurolactam | C(C1=CC=C(C(=O)N2C(CCCCCCCCCCC2)=O)C=C1)(=O)N1C(CCCCCCCCCCC1)=O | C32H48N2O4
